US07732460B2
(c) 6,7-Dihydro[1,4]oxathiino[3,2-c]pyridazine-3-carbaldehyde
A solution of 3-ethenyl-6,7-dihydro[1,4]oxathiino[3,2-c]pyridazine (200 mg, 1.11 mmol) in 1,4-dioxane/water (10 ml/2 ml) was treated with an aqueous solution of osmium tetroxide (4% w/v, 1 ml) and sodium periodate (0.55 g), initially stirred in an ice-bath for 1.5 hours, then allowed to warm to room temperature. After 1.5 hours the mixture was treated with sodium bicarbonate solution, evaporated to dryness and dissolved in 1,4-dioxane and chloroform. Silica gel was added and the mixture was evaporated to dryness, added to a silica column (20 g), and chromatographed, eluting with 0-100% ethyl acetate in hexane, to afford a pale yellow solid (63 mg, 31%).

reactant | 3-ethenyl-6,7-dihydro[1,4]oxathiino[3,2-c]pyridazine | 1.11 mmol, 200 mg | C(=C)C1=CC2=C(N=N1)SCCO2 | C8H8N2OS
reactant | sodium periodate | 0.55 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane water | 10 ml | O1CCOCC1.O
catalyst | osmium tetroxide | 1 ml | [Os](=O)(=O)(=O)=O
product | 6,7-Dihydro[1,4]oxathiino[3,2-c]pyridazine-3-carbaldehyde | 63 mg, 31% | N1=NC(=CC2=C1SCCO2)C=O | C7H6N2O2S
